US05859014
substituting 1-[2-(2,2,2-trifluoroethoxy)phenyl]piperazine and 3-(3-chloropropyl)-1-benzyl-5,6-dimethyl-2,4(1H,3H)-pyrimidinedione gave 1-benzyl-3-(3-{4-[2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl}propyl)-5,6-dimethyl-2,4(1H,3H)-pyrimidinedione hydrochloride, m.p. 221°14 222° C.; Anal.: Calcd. for C28H33F3N4O3.(HCl)1.1 : C, 58.37; H, 6.06; N, 9.72%; Found: C, 58.38; H, 5.96; N, 9.58%;

reactant | 1-[2-(2,2,2-trifluoroethoxy)phenyl]piperazine | FC(COC1=C(C=CC=C1)N1CCNCC1)(F)F | C12H15F3N2O
reactant | 3-(3-chloropropyl)-1-benzyl-5,6-dimethyl-2,4(1H,3H)-pyrimidinedione | ClCCCN1C(N(C(=C(C1=O)C)C)CC1=CC=CC=C1)=O | C16H19ClN2O2
product | 1-benzyl-3-(3-{4-[2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl}propyl)-5,6-dimethyl-2,4(1H,3H)-pyrimidinedione hydrochloride | Cl.C(C1=CC=CC=C1)N1C(N(C(C(=C1C)C)=O)CCCN1CCN(CC1)C1=C(C=CC=C1)OCC(F)(F)F)=O | InChI=1S/C28H33F3N4O3.ClH/c1-21-22(2)35(19-23-9-4-3-5-10-23)27(37)34(26(21)36)14-8-13-32-15-17-33(18-16-32)24-11-6-7-12-25(24)38-20-28(29,30)31;/h3-7,9-12H,8,13-20H2,1-2H3;1H
